US04476307
1-(3-Chloro-4-methoxyphenyl)-3-(1-dimethylaminoethylidene)-2(1H,3H)-indolone
1-(3-Chloro-4-methoxyphenyl)-2(1H,3H)-indolone (0.67 g, 2.45 mmole), dimethylacetamide dimethylacetal (90%, 0.45 ml, 2.7 mmole) and 10 ml CHCl3 were refluxed under nitrogen for 3 hours. The reaction mixture was cooled and evaporated in vacuo to a viscous oil. The oil was column chromatographed on silica gel, eluting impurities with ethyl acetate and then product with 2-4% methanol in ethyl acetate, initially isolated as an oil (793 mg). Crystallization from ether gave purified title product, 625 mg, m.p. 138°-141°.

reactant | 1-(3-Chloro-4-methoxyphenyl)-2(1H,3H)-indolone | 2.45 mmole, 0.67 g | ClC=1C=C(C=CC1OC)N1C(CC2=CC=CC=C12)=O | C15H12ClNO2
reactant | dimethylacetamide dimethylacetal | 2.7 mmole, 0.45 ml | COC(C)(N(C)C)OC | C6H15NO2
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-Chloro-4-methoxyphenyl)-3-(1-dimethylaminoethylidene)-2(1H,3H)-indolone | 793 mg | ClC=1C=C(C=CC1OC)N1C(C(C2=CC=CC=C12)=C(C)N(C)C)=O | C19H19ClN2O2
